US06884868B1
A solution of 4-fluorobenzonitrile (1.50 g), 4-(cyclohexyloxy)piperidine (2.40 g) and potassium carbonate (3.3 g) in DMF (30 ml) was stirred at 90-95° C. for 6 hours. The reaction mixture was poured into water (100 ml) and extracted twice with a mixture of ethyl acetate and n-hexane (80 ml:30 ml). The extracts were combined, washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (200 ml) eluting with a mixture of n-hexane and ethyl acetate (6:1 v/v-5:1 v/v). The fractions containing the desired compound were collected and evaporated under reduced pressure to give 4-[4-cyclohexyloxypiperidin-1-yl)benzonitrile (1.90 g).

reactant | 4-fluorobenzonitrile | 1.50 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 4-(cyclohexyloxy)piperidine | 2.40 g | C1(CCCCC1)OC1CCNCC1 | C11H21NO
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-[4-cyclohexyloxypiperidin-1-yl)benzonitrile | 1.90 g | C1(CCCCC1)OC1CCN(CC1)C1=CC=C(C#N)C=C1 | C18H24N2O
